US06503907B2
2.45 g (6.8 mmol) 5-[5-(Allyl-methyl-amino)-pentyl]-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester in 5 ml CH2Cl2 were treated with 4 ml TFA at 0° C. The solution was stirred at RT for 0.5 h, and at 40° C. for 1 h. The solution was concentrated, and the residue was dissolved in ether, water. 2M NaOH was added and the inorganic phase was extracted with ether. The combined organic phases were washed with water and dried over Na2SO4 to yield 1.65 g (94%) Allyl-[5-(2,3-dihydro-1H-indol-5-yl)-pentyl]-methyl-amine as light yellow oil, MS: 259 (MH+).

reactant | 5-[5-(Allyl-methyl-amino)-pentyl]-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 6.8 mmol, 2.45 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)CCCCCN(C)CC=C | C22H34N2O2
reactant | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | Allyl-[5-(2,3-dihydro-1H-indol-5-yl)-pentyl]-methyl-amine | 1.65 g, 94% | C(C=C)N(C)CCCCCC=1C=C2CCNC2=CC1 | C17H26N2
